US08048902B2
Synthesis of (3-Bromo-4-fluoro-phenyl)-acetic acid ethyl ester
3-Bromo-4-fluorophenylacetic acid (2.35 g, 9.0 mmol) was treated with concentrated sulfuric acid (2 mL) in ethanol (100 mL) at reflux for 2 hours. Purification by silica gel chromatography provided the title compound.

reactant | 3-Bromo-4-fluorophenylacetic acid | 9.0 mmol, 2.35 g | BrC=1C=C(C=CC1F)CC(=O)O | C8H6BrFO2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | (3-Bromo-4-fluoro-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)F)Br)=O | C10H10BrFO2
